US07875626B2
Step 9 3,3,3-Trifluoropropane-1-sulfonic acid 4-[1-(2-chlorophenyl)-3-methyl-4-oxo-5-piperidin-1-yl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-yl]phenyl ester
To a solution of 1-(2-chlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-4-one (0.54 g, 1.24 mmol) in dichloromethane (30 ml) at 0° C. was added triethylamine (0.20 ml, 1.50 mmol) followed by 3,3,3-trifluoropropane sulfonyl chloride (295 mg, 1.50 mmol). The reaction mixture was subsequently stirred at room temperature for 2.5 hours. Concentration and purification by flash chromatography (heptane:EtOAc gradient) afforded 65 mg (9%) of the title compound as a colorless solid.

reactant | 1-(2-chlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-4-one | 1.24 mmol, 0.54 g | ClC1=C(C=CC=C1)N1C(=C(C=2C(N(CCC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)O | C25H26ClN3O2
reactant | triethylamine | 1.50 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | 3,3,3-trifluoropropane sulfonyl chloride | 1.50 mmol, 295 mg | FC(CCS(=O)(=O)Cl)(F)F | C3H4ClF3O2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3,3,3-Trifluoropropane-1-sulfonic acid 4-[1-(2-chlorophenyl)-3-methyl-4-oxo-5-piperidin-1-yl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-yl]phenyl ester | 65 mg, 9% | ClC1=C(C=CC=C1)N1C(=C(C=2C(N(CCC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)OS(=O)(=O)CCC(F)(F)F | C28H29ClF3N3O4S
